US04756739
A solution of 7.59 g (0.11 mol) of sodium nitrite in 15 ml of water was added dropwise with stirring to a solution of 22.6 g (0.1 mol) of 2-amino-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine in 100 ml of concentrated HCl at 0° C. The mixture was stirred for one hour at 50° C., the pH was adjusted to 6.5 using 2N KOH, and the product was extracted three times with 100 ml of dichloromethane in each case. After drying over sodium sulfate and removal of the solvent by evaporation on a rotary evaporator, the residue was distilled at 6.5 mbar and 13 g of 2-chloro-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine were obtained as a colorless liquid.

reactant | sodium nitrite | 0.11 mol, 7.59 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine | 0.1 mol, 22.6 g | NC1=NC=C(C=C1)OC(C(F)Cl)(F)F | C7H6ClF3N2O
reactant | KOH | 2N | [OH-].[K+]
reactant | HCl | 100 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 2-chloro-5-(2-chloro-1,1,2-trifluoroethoxy)pyridine | 13 g, Yield 53% | ClC1=NC=C(C=C1)OC(C(F)Cl)(F)F | C7H4Cl2F3NO
